US07816371B2
c. 2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate
2-(2-Hydroxyethyl)-5-nitroisoquinolin-1(2H)-one (2.2 g, 0.0089 mol) was dissolved in the mixture of methylene chloride (20 mL) and N,N-dimethylformamide (10 mL), N,N-diisopropylethylamine (2.33 mL, 0.0134 mol) and acetyl chloride (1.06 g, 0.0134 mol) were added and the reaction mixture was stirred at room temperature for 30 min. The volatiles were removed, and the residue was washed by water and then with diethyl ether to obtain the product as light yellow solid (2.45 g). MS m/z=277.0 (M+1).

reactant | 2-(2-Hydroxyethyl)-5-nitroisoquinolin-1(2H)-one | 0.0089 mol, 2.2 g | OCCN1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C11H10N2O4
reactant | N,N-diisopropylethylamine | 0.0134 mol, 2.33 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.0134 mol, 1.06 g | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 2-(5-Nitro-1-oxoisoquinolin-2(1H)-yl)ethyl acetate | 2.45 g | C(C)(=O)OCCN1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C13H12N2O5
